US03987116
Powdered ethyl α,β-dibromo-β-(5-methoxynaphth-2-yl)propionate (27.4 g) is added portion-wise to 20% ethanolic potassium hydroxide (135 ml) at room temperature. The mixture is refluxed on a steam bath for 6 hours. The alcohol is evaporated and the residue is dissolved in water and covered with ether and is acidified with cold, dilute hydrochloric acid. The ether layer is washed with water, saline, and dried over sodium sulfate. The ether is removed to give a residue which is triturated with carbon tetrachloride. Recrystallization is carried out from acetic acid-water. This material is digested and triturated with boiling carbon tetrachloride to give 5-methoxynaphth-2-yl propiolic acid.

reactant | ethyl α,β-dibromo-β-(5-methoxynaphth-2-yl)propionate | 27.4 g | BrC(C(=O)OCC)C(C1=CC2=CC=CC(=C2C=C1)OC)Br | C16H16Br2O3
reactant | potassium hydroxide | 135 ml | [OH-].[K+]
product | 5-methoxynaphth-2-yl propiolic acid | COC1=C2C=CC(=CC2=CC=C1)C#CC(=O)O | C14H10O3
